US03944589
A solution of 2 g of ethyl p-(1-cyclohexenyl)-phenyl-acetate in 50 ml of ethanol is mixed with 15 ml of 2N NaOH and heated for 2 hours to 60° C. After the bulk of the ethanol has been distilled off in vacuo, the residue is mixed with 20 ml of water, acidified with 2N hydrochloric acid and extracted with ether. The ethereal extracts are dried over sodium sulphate, filtered and evaporated. The solid residue is recrystallized from petroleum ether and yields the p-(1-cyclohexenyl)-phenyl-acetic acid of the formula ##SPC25##

reactant | ethyl p-(1-cyclohexenyl)-phenyl-acetate | 2 g | C1(=CCCCC1)C1=CC=C(C=C1)CC(=O)OCC | C16H20O2
reactant | NaOH | 2N, 15 ml | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | p-(1-cyclohexenyl)-phenyl-acetic acid | C1(=CCCCC1)C1=CC=C(C=C1)CC(=O)O | C14H16O2
